US05681841
1-(trans-4-Carboxycyclohexyl)-3-[4-(4-piperidinyl)phenyl]-imidazolidin-2-one-hydrochloride
1-(4-carboxyphenyl)-3-[4-(4-piperidinyl)phenyl]-imidazolidin-2-one-hydrochloride×H2O

reactant | 1-(4-carboxyphenyl)-3-[4-(4-piperidinyl)phenyl]-imidazolidin-2-one-hydrochloride | Cl.C(=O)(O)C1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)C1CCNCC1)=O
solvent | H2O | O | H2O
product | 1-(trans-4-Carboxycyclohexyl)-3-[4-(4-piperidinyl)phenyl]-imidazolidin-2-one-hydrochloride | Cl.C(=O)(O)[C@@H]1CC[C@H](CC1)N1C(N(CC1)C1=CC=C(C=C1)C1CCNCC1)=O | InChI=1S/C21H29N3O3.ClH/c25-20(26)17-3-7-19(8-4-17)24-14-13-23(21(24)27)18-5-1-15(2-6-18)16-9-11-22-12-10-16;/h1-2,5-6,16-17,19,22H,3-4,7-14H2,(H,25,26);1H/t17-,19-;
